US05780642
A mixture of phenol (33.2 g) and 2,4,4-trimethyloxazoline (18.1 g) was heated in a stirred pressure vessel at 220° C. for 48 hours. The oil obtained on cooling was dissolved in ethyl acetate, washed with 5M sodium hydroxide solution, water, brine, then dried and evaporated to give an oil which was distilled under high vacuum to give N-(1,1-dimethyl-2-phenoxyethyl)acetamide, b.p. 115°-122° C. at 0.67 mbar.

reactant | phenol | 33.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2,4,4-trimethyloxazoline | 18.1 g | CC=1OCC(N1)(C)C | C6H11NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1,1-dimethyl-2-phenoxyethyl)acetamide | CC(COC1=CC=CC=C1)(C)NC(C)=O | C12H17NO2
